US07932250B2
tert-Butyl trans-4-[(chloroacetyl)amino]cyclohexylcarbamate
The title compound 604 mg (89%) was obtained in a manner similar to the Manufacturing Example 3 by use of tert-butyl trans-4-aminocyclohexylcarbamate and chloroacetyl chloride, instead of the compound obtained in the Manufacturing Example 2 and acetyl chloride, respectively.

reactant | tert-butyl trans-4-aminocyclohexylcarbamate | N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | tert-Butyl trans-4-[(chloroacetyl)amino]cyclohexylcarbamate | 604 mg, 89% | ClCC(=O)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C13H23ClN2O3
